US08293916B2
2-Chloro-4-[1-(4-fluoro-phenyl)-2,5-dimethyl-1H-imidazol-4-ylethynyl]-pyridine (Prepared According to General Procedure 3)
This compound was prepared according to the general procedure 3 described hereinabove. 2-chloro-4-[1-(4-fluoro-phenyl)-2-methyl-1H-imidazol-4-ylethynyl]-pyridine (200 mg, 0.607 mmol) was dissolved in 10 mL THF and cooled to −75° C. Lithiumdiisopropylamide (0.45 ml, 0.91 mmol) was added, and the mixture stirred for 15 min at −75° C. Iodomethane (0.05 ml, 0.85 mmol) was added and stirring was continued at −75° C. for 2 hrs. The reaction mixture was quenched with sat. NaHCO3− solution and extracted with water and ethyl acetate. The combined organic extracts were dried with sodium sulfate, filtered and evaporated. The crude product was purified by flash chromatography on silica gel (heptane/ethylacetate 90:10→20:80 gradient) and by recrystallization from ethyl acetate. The desired compound was obtained as a white solid (40 mg, 19%), MS: m/e=326.5 (M+H+).

reactant | 2-chloro-4-[1-(4-fluoro-phenyl)-2-methyl-1H-imidazol-4-ylethynyl]-pyridine | 0.607 mmol, 200 mg | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C1=CC=C(C=C1)F)C | C17H11ClFN3
reactant | Lithiumdiisopropylamide | 0.91 mmol, 0.45 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | Iodomethane | 0.85 mmol, 0.05 ml | IC | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Chloro-4-[1-(4-fluoro-phenyl)-2,5-dimethyl-1H-imidazol-4-ylethynyl]-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1C)C1=CC=C(C=C1)F)C | C18H13ClFN3
